US08084449B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[2-(3-{[(3S)-3-methyl-1-piperazinyl]methyl}phenyl)-4-pyridinyl]methyl}-2,6-pyridinedicarboxamide
To 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid (30 mg, 0.066 mmol) was added 1,1-dimethylethyl (2S)-4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-2-methyl-1-piperazinecarboxylate (26.3 mg, 0.066 mmol), followed by HBTU (30.2 mg, 0.080 mmol) and TEA (18.48 μl, 0.133 mmol) in dichloromethane (DCM) (663 μL) to give a reaction mixture which was stirred at room temperature overnight. Then the reaction was quenched with H2O (1 drop) and the solvent was removed using a Glas-Col. The crude product was redissolved in MeOH/DMSO (1/1) and purified by Gilson HPLC (acidic condition). Product fractions were evaporated by GeneVac EZ-2 evaporator. To this material was added TFA (0.102 mL, 1.33 mmol) in dichloromethane (0.2 mL) and it was placed in the Glas-Col evaporator overnight. It was redissolved in MeOH/DMSO and purified using a Gilson HPLC (acidic condition). Product fractions were evaporated by GeneVac EZ-2 evaporator, basified by cartridge to afford 19.1 mg (37%) of the title compound. LC-MS m/z 731 (M+H)+.

reactant | 6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinecarboxylic acid | 0.066 mmol, 30 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)O)CC | C23H28N6O4
reactant | 1,1-dimethylethyl (2S)-4-({3-[4-(aminomethyl)-2-pyridinyl]phenyl}methyl)-2-methyl-1-piperazinecarboxylate | 0.066 mmol, 26.3 mg | NCC1=CC(=NC=C1)C=1C=C(C=CC1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C23H32N4O2
reactant | HBTU | 0.080 mmol, 30.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | TFA | 1.33 mmol, 0.102 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 663 μL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[2-(3-{[(3S)-3-methyl-1-piperazinyl]methyl}phenyl)-4-pyridinyl]methyl}-2,6-pyridinedicarboxamide | 19.1 mg, 37% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC2=CC(=NC=C2)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C41H50N10O3
